US08802659B2
Tert-butyl 3-oxo-3-(phenylsulfonamido)propylcarbamate (3.6 g, 15.1 mmol) was dissolved in dichloromethane (60 mL). Then CF3COOH (1.1 mL, 0.3 mmol, 20 equiv) was added to the mixture at 0° C. and stirred for 2 h at 0° C. The reaction mixture was concentrated and purified by flash chromatography to give 3-amino-N-(phenylsulfonyl)propanamide as a white solid (1.4 g, 40%). EDI-MS: 229.0 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ: 7.79˜7.71 (m, 2H), 7.70˜7.43 (brs, 3H), 7.42˜7.34 (m, 3H), 2.83 (t, 2H), 2.24 (t, 2H).

reactant | Tert-butyl 3-oxo-3-(phenylsulfonamido)propylcarbamate | 15.1 mmol, 3.6 g | O=C(CCNC(OC(C)(C)C)=O)NS(=O)(=O)C1=CC=CC=C1 | C14H20N2O5S
reactant | CF3COOH | 0.3 mmol, 1.1 mL, 20 equiv | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 3-amino-N-(phenylsulfonyl)propanamide | 1.4 g, 40% | NCCC(=O)NS(=O)(=O)C1=CC=CC=C1 | C9H12N2O3S
